Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:7]([H:8])([H:9])=[C:10][O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],2.10618041864
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],3.61646502246
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.438598280002
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.60321374196
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.64098087833
[C:2]([C:3]#[C:4][H:5])[O:6][H:7].[O:1]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][H:7],-7.34427717204
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10].[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-6.20783518758
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.793778643231
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-5.135836021519999
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.89425067063
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],7.71747326
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[H:9].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8],4.21237363365
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])[H:14].[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.84540143703
[H:1][C:2]([H:3])=[C:4]1[O:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]=[C:7]([O:6][O:5])[C:8]([H:9])([H:10])[H:11],0.553316938522
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7].[O:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],2.88160658576
[H:12].[H:1][O:2][C:3]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])=[C:10][H:11]>>[H:1][O:2][C:3]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-5.14713897453
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-3.85230305828
[H:1].[O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.67100664695
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.2791041435800015
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5][H:6],6.75708452155
[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-2.75170282297
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],1.10168939205
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7],6.7422471084
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.962808809049999
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],6.62291671227
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]=[C:4]([H:5])[H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12],-0.874352622021
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],5.31534712034
[O:1]=[C:2]([C:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2](#[C:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1],2.83177205072
[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7],0.966070926909
